US07662771B2
Add boron tribromide (4.9 mL, 51.7 mmol) dropwise to a stirred solution of methyl 5-[5-(2-methoxyphenyl)[1,2,4]oxadiazol-3-yl]pentanoate (3.0 g, 10.3 mmol) in methylene chloride (70 mL) at 0° C. under nitrogen. Allow to warm to room temperature and stir for 5 hours. Cool the mixture to 0° C., add methanol (20 mL) dropwise and allow to warm to room temperature. Remove the solvents under reduced pressure and purify the residue by flash column chromatography on silica gel, eluting with ethyl acetate/hexanes (1:9), to provide methyl 5-[5-(2-hydroxyphenyl)[1,2,4]oxadiazol-3-yl]pentanoate, which is used without further purification. Add a solution of sodium hydroxide (800 mg, 20 mmol) in water (15 mL) to a solution of methyl 5-[5-(2-hydroxyphenyl)[1,2,4]oxadiazol-3-yl]pentanoate (2.6 g, 9.4 mmol) in methanol (30 mL) at room temperature and stir the mixture for 2 hours. Adjust the pH of the mixture to 2 with 1 N HCl and extract with ethyl acetate (2×150 mL). Wash the combined organic extracts with water (3×150 mL), dry over sodium sulfate and remove the solvent under reduced pressure. Triturate the residue with hexanes/ethyl acetate and collect the solids by vacuum filtration to afford the title compound (2.4 g, 89% over two steps). APCI MS m/z 261 [C13H14N2O4−H]−.

reactant | boron tribromide | 51.7 mmol, 4.9 mL | B(Br)(Br)Br | BBr3
reactant | methyl 5-[5-(2-methoxyphenyl)[1,2,4]oxadiazol-3-yl]pentanoate | 10.3 mmol, 3.0 g | COC1=C(C=CC=C1)C1=NC(=NO1)CCCCC(=O)OC | C15H18N2O4
reactant | methanol | 20 mL | CO | CH4O
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | methyl 5-[5-(2-hydroxyphenyl)[1,2,4]oxadiazol-3-yl]pentanoate | OC1=C(C=CC=C1)C1=NC(=NO1)CCCCC(=O)OC | C14H16N2O4
